US07323475B2
d) (S)-2-[(4-Mercapto-7-phenoxy-isoquinoline-3-carbonyl)-amino]-propionic acid
To a solution of 6.0 ml of 0.5 M sodium methoxide in methanol was added 100 mg of 4-Mercapto-7-phenoxy-isoquinoline-3-carboxylic acid methyl ester and 286 mg of L-alanine. The mixture was heated to 150° C. for 15 minutes using a CEM Discover microwave reactor. The resultant solution was acidified to pH 3 with 1 N HCl, diluted with 10 ml water, and extracted with 20 ml of ethyl acetate. The organic fraction was washed with brine, dried over anhydrous sodium sulfate, and concentrated to 114 mg of product; MS (−): m/z 369.07 (M−1);

reactant | sodium methoxide | 0.5 M, 6.0 ml | C[O-].[Na+]
reactant | 4-Mercapto-7-phenoxy-isoquinoline-3-carboxylic acid methyl ester | 100 mg | COC(=O)C=1N=CC2=CC(=CC=C2C1S)OC1=CC=CC=C1 | C17H13NO3S
reactant | L-alanine | 286 mg | N[C@@H](C)C(=O)O | C3H7NO2
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | CO | CH4O
solvent | water | 10 ml | O | H2O
product | (S)-2-[(4-Mercapto-7-phenoxy-isoquinoline-3-carbonyl)-amino]-propionic acid | SC1=C(N=CC2=CC(=CC=C12)OC1=CC=CC=C1)C(=O)N[C@H](C(=O)O)C | C19H16N2O4S
